US04346088
2-(4-Chloro-2-methoxyphenyl-imino)-4-(4-chloro-3-dimethylsulfamoylphenyl)-3-methyl-4-thiazoline hydrobromide
Obtained by a procedure analogous to that indicated in Example 1 (b), from 2-(4-chloro-2-methoxyphenyl-imino)-4-(4-chloro-3-dimethylsulfamoylphenyl)-3-methylthiazolidin-4-ol hydrobromide, by boiling for 30 minutes in formic acid, then distilling off the solvent, treating the residue with ethyl acetate or diisopropyl ether and filtering off the solid. Melting point 244° C. (with decomposition).

reactant | 2-(4-chloro-2-methoxyphenyl-imino)-4-(4-chloro-3-dimethylsulfamoylphenyl)-3-methylthiazolidin-4-ol hydrobromide | Br.ClC1=CC(=C(C=C1)N=C1SCC(N1C)(O)C1=CC(=C(C=C1)Cl)S(N(C)C)(=O)=O)OC
solvent | formic acid | C(=O)O | CH2O2
product | 2-(4-Chloro-2-methoxyphenyl-imino)-4-(4-chloro-3-dimethylsulfamoylphenyl)-3-methyl-4-thiazoline hydrobromide | Br.ClC1=CC(=C(C=C1)N=C1SC=C(N1C)C1=CC(=C(C=C1)Cl)S(N(C)C)(=O)=O)OC | InChI=1S/C19H19Cl2N3O3S2.BrH/c1-23(2)29(25,26)18-9-12(5-7-14(18)21)16-11-28-19(24(16)3)22-15-8-6-13(20)10-17(15)27-4;/h5-11H,1-4H3;1H
